US04816447
9-[1,3-Bis(imidazol-1-ylcarbonyloxy)-2-propoxymethyl]-guanine
A mixture of 55 mg (0.2 mmole) of 9-(1,3-dihydroxy-2-propoxymethyl)guanine monohydrate, 130 mg (0.8 mmole) of 1,1'-carbonyldiimidazole, and 2 ml of dry dimethylformamide was stirred under nitrogen at 95°-100° for 1.5 hours, during which time a clear solution was obtained followed by precipitation of product. After cooling, the precipitate was collected on a filter and washed with some dimethylformamide and then with acetone to give 37 mg of white crystals, m.p. 252°-253° dec. The NMR spectrum was in accord with the assigned structure.

reactant | 9-(1,3-dihydroxy-2-propoxymethyl)guanine monohydrate | 0.2 mmole, 55 mg | O.OCC(CO)OCN1C=2N=C(NC(C2N=C1)=O)N
reactant | 1,1'-carbonyldiimidazole | 0.8 mmole, 130 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 9-[1,3-Bis(imidazol-1-ylcarbonyloxy)-2-propoxymethyl]-guanine | 37 mg | N1(C=NC=C1)C(=O)OCC(COC(=O)N1C=NC=C1)OCN1C=2N=C(NC(C2N=C1)=O)N | C17H17N9O6
